US03987160
To a solution of 2-hexyloxybenzamide (64 g; prepared as described by E. M. Bavin, F. J. Macrae, D. E. Seymour and P. D. Waterhouse, J.Pharm.Pharmacol., 1952, 4, 872) in anhydrous methylene chloride (830 ml.) was added, dropwise during 10 minutes with stirring, a solution of triethyloxonium borofluoride (55.2 g.) in anhydrous methylene chloride (170 ml.). The solution was stirred for a further 105 minutes, and allowed to stand at room temperature for 2 days. The solution was concentrated to 350 ml., and anhydrous diethyl ether (1750 ml.) was added. The precipitated solid was filtered off and washed with anhydrous diethyl ether to give ethyl 2-hexyloxybenzimidate borofluoride (62 g.), m.p. 68°-70° C., which was pure enough to use for the next stage of the synthesis. A pure sample, m.p. 73°-74° C., was obtained by recrystallisation of an aliquot from a mixture of anhydrous methylene chloride and anhydrous diethyl ether.

reactant | 2-hexyloxybenzamide | 64 g | C(CCCCC)OC1=C(C(=O)N)C=CC=C1 | C13H19NO2
reactant | triethyloxonium borofluoride | 55.2 g | [B-](F)(F)(F)F.CC[O+](CC)CC
solvent | methylene chloride | 830 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-hexyloxybenzimidate | C(CCCCC)OC1=C(C(OCC)=N)C=CC=C1 | C15H23NO2
